US07491735B2
Using general procedure A, 4-(2-methoxy-ethoxy)-phenylamine (Ishidate; Maruyoma, Chem. Abstr., 1952, 8810) (1.15 g, 6.84 mmol) and 1-Boc-4-piperidone (1.36 g, 6.83 mmol) afforded 4-[4-(2-methoxy-ethoxy)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester (2.08 g, 86%).

reactant | 4-(2-methoxy-ethoxy)-phenylamine | 6.84 mmol, 1.15 g | COCCOC1=CC=C(C=C1)N | C9H13NO2
reactant | 1-Boc-4-piperidone | 6.83 mmol, 1.36 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | 4-[4-(2-methoxy-ethoxy)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester | 2.08 g, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OCCOC | C19H30N2O4
